US06130238
Dimethyl malonate (10 mL) in 25 mL of dimethylsulfoxide was added dropwise to 3.5 g sodium hydride suspended in 25 mL dimethylsulfoxide and the mixture heated at 100° C. for 10 minutes. The mixture was cooled to room temperature and 4.7 g of 4-fluoro-3-nitrobiphenyl in 25 mL dimethylsulfoxide was added. The mixture was heated at 100° C. for 2 hours, cooled and quenched with 300 mL of saturated ammonium chloride solution. The mixture was extracted three times with ethyl acetate and the combined organic layers washed with water and brine and evaporated to give, as a yellow oil, crude dimethyl-3-nitrobiphenyl-4-malonate.

reactant | Dimethyl malonate | 10 mL | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium hydride | 3.5 g | [H-].[Na+]
reactant | 4-fluoro-3-nitrobiphenyl | 4.7 g | FC1=C(C=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C12H8FNO2
solvent | dimethylsulfoxide | 25 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 25 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 25 mL | CS(=O)C | C2H6OS
product | dimethyl-3-nitrobiphenyl-4-malonate | COC(C(C(=O)OC)C1=C(C=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-])=O | C17H15NO6
